US06852726B2
6-Bromo-1-cyanomethyl-1H-indole-3-carboxylic acid
6-Bromo-1H-indole-3-carboxylic acid (0.24 g, 1 mmole) was dissolved in anhydrous dimethylformamide (2 ml) and cooled to 0° C. in a nitrogen atmosphere. With stirring, sodium hydride (60% in oil, 0.088 g, 2.2 mmole) was added all at once and the mixture was stirred at this temperature until no more bubbles evolved (ca. 20-30 minutes). Bromoacetonitrile (0.132 g, 1.1 mmole) was added to the reaction mixture which was then allowed to warm to room temperature over the next hour. The reaction mixture was poured into water, acidified with HCl and a precipitate formed. When dried the product weighed 0.190 g (68% yield) and was sufficiently pure to be used directly in the next step without further purification.

reactant | 6-Bromo-1H-indole-3-carboxylic acid | 1 mmole, 0.24 g | BrC1=CC=C2C(=CNC2=C1)C(=O)O | C9H6BrNO2
reactant | sodium hydride | 2.2 mmole, 0.088 g | [H-].[Na+]
reactant | Bromoacetonitrile | 1.1 mmole, 0.132 g | BrCC#N | C2H2BrN
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-Bromo-1-cyanomethyl-1H-indole-3-carboxylic acid | 68% yield | BrC1=CC=C2C(=CN(C2=C1)CC#N)C(=O)O | C11H7BrN2O2
